US04236002
(-)-α-Amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid
(-)-α-Amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid methyl ester is dissolved in aqueous 1 N sodium hydroxide and the solution is stirred at 40°-50° C. for 1 hour. The solution is acidified with 6 N hydrochloric acid to a pH of 7. Evaporation of the solvent gives the title compound in a 90% overall yield.

reactant | (-)-α-Amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid methyl ester | COC(C(C1=CC(=C(C=C1)O)COC)N)=O | C11H15NO4
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
product | (-)-α-Amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid | NC(C(=O)O)C1=CC(=C(C=C1)O)COC | C10H13NO4
